US07960425B2
Synthesis of 5-hydrazinocarbonylthiophene-2-carboxylic Acid Diethylamide
Methyl 5-(diethylcarbamoyl)thiophene-2-carboxylate (247 mg, 1.02 mmol) in ethanol (9 mL) was stirred with hydrazine monohydrate (495 mg, 10.2 mol) at 90° C. for 6 hours. After addition of water, the reaction solution was extracted with ethyl acetate and chloroform, and the extract was dried over anhydrous magnesium sulfate and concentrated to give the desired product (yield 89%).

reactant | Methyl 5-(diethylcarbamoyl)thiophene-2-carboxylate | 1.02 mmol, 247 mg | C(C)N(C(=O)C1=CC=C(S1)C(=O)OC)CC | C11H15NO3S
reactant | hydrazine monohydrate | 10.2 mol, 495 mg | O.NN
reactant | water | O | H2O
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | 5-hydrazinocarbonylthiophene-2-carboxylic Acid Diethylamide | yield 89% | C(C)N(C(=O)C=1SC(=CC1)C(=O)NN)CC | C10H15N3O2S
